US07612068B2
(2-Hydroxymethyl-piperidin-1-yl)-acetic acid tert-butyl ester
Bromo-acetic acid tert-butyl ester (0.39 g, 2 mmol) was dissolved in DMF (1 mL). A solution of piperidin-2-yl-methanol (0.25 g, 2.2 mmol) in DMF (1 mL) and diisopropylethylamine (0.38 mL, 2.2 mmol) was added. The reaction mixture was stirred at 50° C. for 16 h. The solvent was removed in vacuo. EtOAc (20 mL) and water (7 mL) was added. The two phases were separated. The aqueous phase was extracted twice with EtOAc (20 mL). The combined EtOAc phases were dried over magnesium sulfate, filtered and the filtrate was evaporated in vacuo. The product was isolated as an oil. Yield: 0.37 g, 80%.

reactant | Bromo-acetic acid tert-butyl ester | 2 mmol, 0.39 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
reactant | piperidin-2-yl-methanol | 2.2 mmol, 0.25 g | N1C(CCCC1)CO | C6H13NO
reactant | diisopropylethylamine | 2.2 mmol, 0.38 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (2-Hydroxymethyl-piperidin-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(CCCC1)CO)=O | C12H23NO3
